US07459577B2
The procedure of Example 13 was repeated except that triisopropylmethoxysilane was replaced by 83.3 g (0.2 moles) of triisopropyl-n-butoxysilane. The latter was reacted with 35% hydrochloric acid. There was obtained 38 g of triisopropylchlorosilane (yield; 99%).

reactant | triisopropylmethoxysilane | C(C)(C)[Si](OC)(C(C)C)C(C)C | C10H24OSi
reactant | triisopropyl-n-butoxysilane | 0.2 moles, 83.3 g | C(C)(C)[Si](OCCCC)(C(C)C)C(C)C | C13H30OSi
reactant | hydrochloric acid | Cl | ClH
product | triisopropylchlorosilane | 38 g, yield; 99% | C(C)(C)[Si](Cl)(C(C)C)C(C)C | C9H21ClSi
